* source HALF_ADDER
R_R2         0 S 1k
V_V1         A 0  
+PULSE 0 1 0 .001us .001us 2us 4.002us
R_R1         0 C 1k
V_V3         N03121 N03149 7
V_V4         B 0  
+PULSE 0 1 1us .001us .001us 2us 4.002us
M_M1         N02833 A 0 0 MbreakN           
M_M2         S B A A MbreakN           
M_M3         N03121 A N02833 N02833 MbreakP           
M_M4         N02833 B S S MbreakP           
M_M5         B A C C MbreakP           
