* source TEST
V_V4         B 0  
+PULSE 0 5 1us .001us .001us 2us 4.002us
V_V1         A 0  
+PULSE 0 5 0 .001us .001us 2us 4.002us
X_U1A         B A G $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         B G N06488 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         G A N06481 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         N06488 N06481 N08943 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         P C N09157 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         B B N08115 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         A A N08108 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2D         N08115 N08108 P $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N09157 G COUT $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4D         N08720 N08710 S $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N08943 C N08692 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4C         N08692 C N08710 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4B         N08943 N08692 N08720 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
C_C2         0 COUT  1p  TC=0,0 
C_C3         0 S  1p  TC=0,0 
V_V5         C 0  
+PULSE 0 5 .5us .001us .001us 2us 4.002us
